US07498460B2
Methyl 4-(3-{4-[(4-cyclohexylbenzyl)oxy]phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate is prepared in analogy to the process described in Example 34 from methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate and 1-(chloromethyl)-4-cyclohexylbenzene.

reactant | methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | OC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC | C26H31NO7
reactant | 1-(chloromethyl)-4-cyclohexylbenzene | ClCC1=CC=C(C=C1)C1CCCCC1 | C13H17Cl
product | Methyl 4-(3-{4-[(4-cyclohexylbenzyl)oxy]phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | C1(CCCCC1)C1=CC=C(COC2=CC=C(C=C2)CCCOC2=C(C=C(C(=O)OC)C=C2)C(=O)NC2CC(CCC2)C(=O)OC)C=C1 | C39H47NO7
